US04937239
1-Azabicyclo[2.2.2]oct-2-ene-3-carboxaldehyde
Freshly distilled oxalyl chloride (4.2 ml, 47.3 mmol) was dissolved in 80 ml of methylene chloride and cooled to -78° C. A solution of DMSO (6.7 ml, 94.6 mmol) in 20 ml of methylene chloride was added dropwise to the cooled solution. After stirring 10 minutes, a solution of 3-hydroxymethyl-1-azabicyclo[2.2.2]oct-2-ene (6 g, 43 mmol) in 20 ml of methylene was added dropwise and the reaction stirred for 1 hour. Triethylamine (30 ml, 215 mmol) was added to the reaction and the reaction was slowly warmed to room temperature, then poured into 200 ml of water and the organic phase separated. The aqueous phase was extracted with methylene chloride (3×250 ml) and the combined organic phases were washed with 10% sodium carbonate (2×150 ml), dried over anhydrous sodium sulfate, and concentrated in vacuo to afford a yellow liquid. The crude liquid was stirred in diethyl ether, filtered, and concentrated to afford a clear, yellow liquid (4 g) which was distilled (42° C., 0.25 mm Hg) to give the product as a clear, colorless liquid (2.4 g, 40%).

reactant | oxalyl chloride | 47.3 mmol, 4.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 94.6 mmol, 6.7 ml | CS(=O)C | C2H6OS
reactant | 3-hydroxymethyl-1-azabicyclo[2.2.2]oct-2-ene | 43 mmol, 6 g | OCC1=CN2CCC1CC2 | C8H13NO
reactant | Triethylamine | 215 mmol, 30 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 1-Azabicyclo[2.2.2]oct-2-ene-3-carboxaldehyde | 4 g | N12C=C(C(CC1)CC2)C=O | C8H11NO
